US04880841
A mixture of 6 g of 4-methyl-3-methylthiostyrene oxide and 7 g of 3-(4-methoxyphenyl)-1-methylpropylamine was heated to 115° C. for 3 hours. After the reaction was over, the reaction mixture was dissolved in 100 ml of benzene and after washing twice each time with 200 ml of water, the benzene layer was purified by a silica gel column chromatography (eluate: a mixture of benzene, ethyl acetate, and methanol (4:3:1 by volume ratio) to provide 3.5 g of amorphous α-{[3-(4-methoxyphenyl)-1-methylpropylamino]methyl}-4-methyl-3-methylthiobenzenemethanol.

reactant | 4-methyl-3-methylthiostyrene oxide | 6 g | CC1=C(C=C(C2CO2)C=C1)SC | C10H12OS
reactant | 3-(4-methoxyphenyl)-1-methylpropylamine | 7 g | COC1=CC=C(C=C1)CCC(C)N | C11H17NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | α-{[3-(4-methoxyphenyl)-1-methylpropylamino]methyl}-4-methyl-3-methylthiobenzenemethanol | 3.5 g | COC1=CC=C(C=C1)CCC(C)NCC(O)C1=CC(=C(C=C1)C)SC | C21H29NO2S
